US04889855
2,3-Dihydroxy-6-sulphamoyl-benzo(f)quinoxaline
A mixture of 1.0 g (3.4 mmol) 1,2-diamino-4-sulphamoyl-naphtalene and 1.0 (7.9 mmol) oxalic acid dihydrate in 20 ml 2N HCl was refluxed for 2 hours. After cooling to room temperature the precipitate was filtered off and washed with water. The crude product was recrystallized from dimethylformamide/water to give 0.6 g (50%) of the title compound.

reactant | 1,2-diamino-4-sulphamoyl-naphtalene | 3.4 mmol, 1.0 g | NC1=C(C=C(C2=CC=CC=C12)S(N)(=O)=O)N | C10H11N3O2S
reactant | oxalic acid dihydrate | O.O.C(C(=O)O)(=O)O
solvent | HCl | 2N, 20 ml | Cl | ClH
product | 2,3-Dihydroxy-6-sulphamoyl-benzo(f)quinoxaline | 0.6 g, 50% | OC=1C(=NC=2C=C(C3=C(C2N1)C=CC=C3)S(N)(=O)=O)O | C12H9N3O4S
